US08212041B2
3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxylic acid (0.072 g, 0.21 mmol) was dissolved in DMF (1.5 mL) then added N-(2-aminoethyl)-N-methyl carbamic acid tert-butyl ester (0.054 ml, 0.31 mmol), 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.12 g, 0.31 mmol) and triethylamine (0.043 ml, 0.31 mmol). The reaction mixture was stirred at room temperature overnight then concentrated under vacuum. The sample was purified by flash chromatography eluting with 6% 7N ammonia in methanol/dichloromethane to afford tert-butyl 2-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)ethyl(methyl)carbamate (0.097 g, 93% yield) as a pale yellow solid.

reactant | 3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxylic acid | 0.21 mmol, 0.072 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)O | C18H14N4O4
reactant | N-(2-aminoethyl)-N-methyl carbamic acid tert-butyl ester | 0.31 mmol, 0.054 ml | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.31 mmol, 0.12 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.31 mmol, 0.043 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)ethyl(methyl)carbamate | 0.097 g, 93% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)NCCN(C(OC(C)(C)C)=O)C | C26H30N6O5
